US06518435B1
Benzoylpropionic acid (100 g) was suspended in methanol (300 ml) at room temperature, and hydroxyamine hydrochloride (46.8 g) and sodium acetate (138 g) were added. After stirring the mixture for 4.5 hr at room temperature at 22-27° C., pure water (500 ml) was added under cooling at 24-26° C. Seed crystal was added at 25° C., and the mixture was stirred at room temperature for about 1 hr, then cooled to 10° C. over about 30 min, and stirred at 5-10° C. for about 2 hr. The precipitated solid was collected by filtration, washed with pure water (100 ml×2) and dried under reduced pressure (40° C.) to give 4-(hydroxyimino)-4-phenylbutanoic acid (94.4 g) as a white solid in a yield of 87.1%.

reactant | Benzoylpropionic acid | 100 g | C(C1=CC=CC=C1)(=O)C(C(=O)O)C | C10H10O3
reactant | hydroxyamine hydrochloride | 46.8 g | Cl.ON
reactant | sodium acetate | 138 g | C(C)(=O)[O-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 4-(hydroxyimino)-4-phenylbutanoic acid | 94.4 g, yield of 87.1% | ON=C(CCC(=O)O)C1=CC=CC=C1 | C10H11NO3
